US07488739B2
374 mg of methyl (2R)-2-({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]carbonyl}amino)-3-pyridin-3-ylpropanoate was suspended in 4 ml of EtOAc, to which 2 ml of 0.5M HCl EtOAc solution was added, for stirring for 30 minutes. Subsequently, the resulting precipitate was filtered, to obtain 156 mg of methyl (2R)-2-({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]carbonyl}amino)-3-pyridin-3-ylpropanoate hydrochloride.

reactant | methyl (2R)-2-({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]carbonyl}amino)-3-pyridin-3-ylpropanoate | 374 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)C(=O)N[C@@H](C(=O)OC)CC=1C=NC=CC1)=O)F | C30H37FN4O4
reactant | HCl EtOAc | 0.5M, 2 ml | Cl.CCOC(=O)C
solvent | EtOAc | 4 ml | CCOC(=O)C | C4H8O2
product | methyl (2R)-2-({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]carbonyl}amino)-3-pyridin-3-ylpropanoate hydrochloride | 156 mg | Cl.C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)C(=O)N[C@@H](C(=O)OC)CC=1C=NC=CC1)=O)F | InChI=1S/C30H37FN4O4.ClH/c1-4-21(5-2)35-18-23(29(37)34-26(30(38)39-3)14-19-10-9-13-32-17-19)28(36)22-15-24(31)25(16-27(22)35)33-20-11-7-6-8-12-20;/h9-10,13,15-18,20-21,26,33H,4-8,11-12,14H2,1-3H3,(H,34,37);1H/t26-;/m1./s1
